US06245746B1
(A) Nα-Benzyl-Nδ-Boc-Ornithine
A solution of Nδ-Boc-ornithine (7.0 g), 2M sodium hydroxide (20 ml), benzaldehyde (3.2 ml) and methanol (10 ml) was cooled to 0° C. and sodium borohydride (2.7 g) was added. After 1 hr at 0° C., the mixture was kept at 25° C. for 12 h. Water (100 ml) was added and the mixture extracted with ether (2×60 ml). The combined organic extract was washed with sat. sodium bicarbonate (ca. 150 ml) and water, and dried over anhydrous sodium sulfate. After concentration in vacuo, the desired product (4.5 g) was obtained as a white solid: 1H NMR (400 MHz, CD3OD) δ1.42 (s, 9H), 1.60 (m, 2H), 1.84 (m, 2H), 3.03 (m, 2H), 3.50 (t, J=7.4 Hz, 1H), 4.11 (d, J=11.9 Hz, 1H), 4.21 (d, J=11.9 Hz, 1H), 7.41 (m, 3H), and 7.49 (m, 2H).

reactant | Nδ-Boc-ornithine | 7.0 g | C(=O)(OC(C)(C)C)NCCC[C@H](N)C(=O)O | C10H20N2O4
reactant | sodium hydroxide | 2M, 20 ml | [OH-].[Na+]
reactant | benzaldehyde | 3.2 ml | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium borohydride | 2.7 g | [BH4-].[Na+]
solvent | Water | 100 ml | O | H2O
solvent | methanol | 10 ml | CO | CH4O
product | Nα-Benzyl-Nδ-Boc-Ornithine | 4.5 g | C(C1=CC=CC=C1)N[C@@H](CCCNC(=O)OC(C)(C)C)C(=O)O | C17H26N2O4
